US09428470B2
C) tert-Butyl 3-(3-(benzyloxy)-5-((1E)-3-tert-butoxy-3-oxoprop-1-en-1-yl)phenyl)-5-(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazole-5-carboxylate
A mixture of tert-butyl 3-(3-(benzyloxy)-5-bromophenyl)-5-(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazole-5-carboxylate (500 mg), tert-butyl acrylate (586 mg), palladium acetate (10.27 mg), tris(2-methylphenyl)phosphine (41.8 mg), triethylamine (0.383 mL), and DMF (5 mL) was stirred at 100 C for 2 days under an argon atmosphere. To the reaction mixture, water was added, followed by extraction with ethyl acetate. The extract was washed with brine and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure to obtain the title compound (272 mg).

reactant | tert-butyl 3-(3-(benzyloxy)-5-bromophenyl)-5-(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazole-5-carboxylate | 500 mg | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)Br)C1=NOC(C1)(C(=O)OC(C)(C)C)CC(=O)OC(C)(C)C | C27H32BrNO6
reactant | tert-butyl acrylate | 586 mg | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | tris(2-methylphenyl)phosphine | 41.8 mg | CC1=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C21H21P
reactant | triethylamine | 0.383 mL | C(C)N(CC)CC | C6H15N
catalyst | palladium acetate | 10.27 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 3-(3-(benzyloxy)-5-((1E)-3-tert-butoxy-3-oxoprop-1-en-1-yl)phenyl)-5-(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazole-5-carboxylate | 272 mg | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)\C=C\C(=O)OC(C)(C)C)C1=NOC(C1)(C(=O)OC(C)(C)C)CC(=O)OC(C)(C)C | C34H43NO8
